US08304419B2
Step B: 4-chloro-5-{[(phenylmethyl)oxy]methyl}-2-propyl-1H-imidazole
A solution of N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}butanamide (1.60 g, 6.5 mmol), triphenylphosphine (4.3 g, 16.3 mmol), and carbon tetrachloride (1.6 mL, 16.3 mmol) in acetonitrile (65 mL) was heated at 42° C. for 12 h. The reaction was then concentrated and the residue was stirred in CH2Cl2 (70 mL) and 0.5 N NaOH (60 mL) for 15 min. The organic layer was isolated, dried (Na2SO4), filtered, concentrated and the residue was purified by silica gel flash column chromatography (5-40% EtOAc:hexanes) to give the title compound as a light yellow solid, in assumed quantitative yield due to inseparable triphenylphosphine oxide. 1H NMR (400 MHz, CDCl3) δ 7.30-7.40 (m, 5H), 4.52 (s, 4H), 2.58-2.68 (m, 2H), 1.68-1.82 (m, 2H), 0.97 (t, 3H).

reactant | N-{1-cyano-2-[(phenylmethyl)oxy]ethyl}butanamide | 6.5 mmol, 1.60 g | C(#N)C(COCC1=CC=CC=C1)NC(CCC)=O | C14H18N2O2
reactant | triphenylphosphine | 16.3 mmol, 4.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 16.3 mmol, 1.6 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 65 mL | C(C)#N | C2H3N
product | 4-chloro-5-{[(phenylmethyl)oxy]methyl}-2-propyl-1H-imidazole | quantitative yield | ClC=1N=C(NC1COCC1=CC=CC=C1)CCC | C14H17ClN2O
